* D:\home\brosnan\bltspice_mcp\bltspice_mcp\testfiles\Batch_Test.asc
* Generated by LTspice 26.0.2 for Windows.
V1 +V 0 15
R1 N001 0 10K
R2 OUT N001 10K
V2 -V 0 -15
V3 IN 0 SINE(0 1 {freq})
X§U1 IN N001 +V -V OUT AD820 ;§pnba In+)In-)V+)V-)OUT
.tran 1m
.meas TRAN Vout_rms RMS V(OUT)
.meas TRAN Vin_rms RMS V(IN)
.meas TRAN gain PARAM Vout_rms/Vin_rms
.param freq=10k
.meas Vout1m FIND V(OUT) AT 1m
.meas TRAN period FIND time WHEN V(out)=0 RISE=1
.param test_param3={test_param2 + 1}
.param test_param1=12 test_param2=10
* .step dec param freq 10k 1Meg 10
.subckt AD820_ALT 1 2 3 4 5
C1 N006 X {Cf}
A1 N005 0 M M M M X M OTA g={Ga} Iout={Islew} en=13n enk=20 Vhigh=1e308 Vlow=-1e308
D21 X 3 ESD
D22 4 X ESD
D5 N006 3 X1
D6 4 N006 X2
C2 3 N006 1p
C3 N006 4 1p
G2 0 M 3 0 500µ
R4 M 0 1K noiseless
G3 0 M 4 0 500µ
S1 X M 4 3 SD
A2 2 1 0 0 0 0 0 0 OTA g=0 in=.8f ink=1 incm=.08f incmk=1
I1 1 4 2p load
I2 2 4 2p load
C11 3 1 .7p Rpar=40T noiseless
C5 1 4 .7p Rpar=40T noiseless
C10 2 4 .7p Rpar=40T noiseless
C12 3 2 .7p Rpar=40T noiseless
B3 0 N004 I=2m*dnlim(uplim(V(1),V(3)-1,.1), V(4)+-.2, .1)+100n*V(1)
B4 N004 0 I=2m*dnlim(uplim(V(2),V(3)-1,.1), V(4)+-.2, .1)+100n*V(2)
C4 N004 0 35p Rpar=1K noiseless
D1 3 4 IQ
L1 N004 N005 35µ
C6 N005 0 35p Rpar=1K noiseless
C7 3 5 1p
C8 5 4 1p
R5 2 1 13.35T noiseless
B1 3 N006 I=if(V(m,x)>=0, V(m,x)*(Gb+Gbx*V(m,x)),0)
B2 N006 4 I=if(V(x,m)>0, V(x,m)*(Gb+Gbx*V(x,m)),0)
D2 N006 N007 20Ohm
D3 5 N007 45mA
C9 3 N007 1p
C13 N007 4 1p
.param Cf = 1p
.param Ro = 1Meg
.param Avol  =  60K
.param RL =  2K
.param AVmid =  200
.param FmidA = 10K
.param Zomid = .3
.param FmidZ  = 10K
.param Iout = 25m
.param Vslew  = 4Meg
.param Vmin = 2.5
.param Roe = 1/(1/RL+1/Ro)
.param Gb = ((FmidZ/FmidA)*(Roe/(AVmid*Zomid))-1)/Roe
.param Ga = 2*pi*FmidZ*Cf/(Zomid*gb)
.param RH = Avol/(Ga*Gb*Roe)
.param Islew = Vslew*Cf*(1+1/(Roe*Gb))
.param Gbx = 50*Gb
.model ESD D(Ron=10 Roff=1T Vfwd=0 epsilon=1 noiseless)
.model X1 D(Ron=1m Roff={2*Ro} Vfwd=-3m epsilon=10m noiseless)
.model X2 D(Ron=1m Roff={2*Ro} Vfwd=-6m epsilon=10m noiseless)
.model SD SW(Ron=10m Roff={RH} Vt={-Vmin-100m} Vh=-100m noiseless)
.model 20Ohm D(Ron=10 Roff=30 epsilon=10m noiseless)
.model 45mA D(Ron=10 Vrev=0 Ilimit=45m revIlimit=45m)
.model IQ D(Ron=2K Vfwd=2 epsilon=1 Ilimit=.7m noiseless)
.ends AD820_ALT
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\AD822.asy)
.lib ADI1.lib
.backanno
.end
